US07495103B2
To a solution of methyl-(3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester (110 mg, 0.37 mmol) in EtOAc (10 ml) was added 10% Pd—C (100 mg). The resulting suspension was stirred at room temperature under H2 (1 atm) for 2 days. The progress of the reaction was monitored by TLC. Upon completion, the reaction mixture was filtered through a pad of Celite. The filtrate was concentrated in vacuo to afford (3-Amino-4-propyl-phenyl)-methyl-carbamic acid tert-butyl ester (D-15) as a colorless crystalline compound (80 mg, 81%). ESI-MS 265.3 m/z (MH+).

reactant | methyl-(3-nitro-4-propyl-phenyl)-carbamic acid tert-butyl ester | 0.37 mmol, 110 mg | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)CCC)[N+](=O)[O-])C)=O | C15H22N2O4
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | (3-Amino-4-propyl-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC(=C(C=C1)CCC)N)=O | C15H24N2O2
